US07256198B2
Step 2: (S)-2-Methoxymethyl-2,3-dihydro-1H-indole
A solution of (S)-2-methoxymethyl-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (3.863 g, 4.67 mmol, 1 eq) in CH2Cl2 (50 mL) was cooled to 0° C. and TFA (12 mL) was added. The reaction was stirred at room temperature for 1 hr and then poured carefully into 1 N NaOH. The pH was adjusted to basic with 2.5 N NaOH and it was extracted with CH2Cl2. The combined organics dried over sodium sulfate and concentrated to afford the title compound as a yellow oil, which was used crude in the following reaction. NMR (400 Mz, DMSO-d6): consistent.

reactant | (S)-2-methoxymethyl-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 4.67 mmol, 3.863 g, 1 eq | C(C)(C)(C)OC(=O)N1[C@@H](CC2=CC=CC=C12)COC | C15H21NO3
reactant | TFA | 12 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | NaOH | 2.5 N | [OH-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-Methoxymethyl-2,3-dihydro-1H-indole | COC[C@H]1NC2=CC=CC=C2C1 | C10H13NO
